US04202835
A solution of 0.765 Kg of sodium cyanide in 3.8 liters of water was added with stirring at 5° C. over 10 minutes to a mixture of 3.700 Kg of combination bisulfite of m-phenoxy-benzaldehyde (98% titer) in 7.4 liters of dimethylformamide and 3.8 liters of acetic acid were added thereto over 30 minutes at 5° C. The mixture was stirred for 30 minutes at 10° C. and the reaction mixture was then poured into a mixture of water and ethyl acetate. The mixture was stirred and decanted and the aqueous phase was extracted twice more with ethyl acetate. The combined ethyl acetate phases were washed with water, dried and stirred with 0.37 Kg of activated charcoal and 0.37 Kg of sodium sulfate. The mixture was filtered and the filtrate was evaporated to dryness under reduced pressure to obtain 2.770 Kg of α-cyano-3-phenoxy-benzyl alcohol containing 1% of dimethylformamide.

reactant | sodium cyanide | 0.765 Kg | [C-]#N.[Na+]
reactant | bisulfite | S([O-])(O)=O
reactant | m-phenoxy-benzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 3.8 liters | O | H2O
solvent | dimethylformamide | 7.4 liters | CN(C=O)C | C3H7NO
solvent | acetic acid | 3.8 liters | C(C)(=O)O | C2H4O2
product | α-cyano-3-phenoxy-benzyl alcohol | 2.770 Kg, 1% | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
